US04772614
A mixture of 1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride (3.56 g) and aqueous methylamine (30% w/v; 100 ml) was stirred at room temperature for 1 hour. The precipitated solid was filtered off, washed with water and crystallised from aqueous acetic acid to give the compound 1,N-dimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide, m.p. 248°-250°.

reactant | 1-methyl-4-oxo-1,4-dihydroquinoline-3-sulphonyl chloride | 3.56 g | CN1C=C(C(C2=CC=CC=C12)=O)S(=O)(=O)Cl | C10H8ClNO3S
reactant | methylamine | 100 ml | CN | CH5N
product | 1,N-dimethyl-4-oxo-1,4-dihydroquinoline-3-sulphonamide | CN1C=C(C(C2=CC=CC=C12)=O)S(=O)(=O)NC | C11H12N2O3S
